US08685977B2
4-tert-butoxy-2,5-difluoro-N-(methylsulfonyl)benzamide
Potassium tert-butoxide (1.46 g, 13.0 mmol) was added to a solution of 2,4,5-trifluoro-N-(methylsulfonyl)benzamide (Preparation 7, 1.5 g, 5.924 mmol) in DMSO (10 mL) and stirred at room temperature. After 3 hours, potassium tert-butoxide (140 mg, 1.3 mmol) was further added and stirred for 18 hours more. The reaction mixture was diluted with EtOAc and 10% aqueous citric acid solution. The pH of the water layer was acidic. The organic layer was washed with more 10% aqueous citric acid and brine, then dried over magnesium sulfate, filtered and concentrated in vacuo to yield the title compound as a cream solid (1.76 g, 100%).

reactant | Potassium tert-butoxide | 13.0 mmol, 1.46 g | CC(C)([O-])C.[K+]
reactant | 2,4,5-trifluoro-N-(methylsulfonyl)benzamide | 5.924 mmol, 1.5 g | FC1=C(C(=O)NS(=O)(=O)C)C=C(C(=C1)F)F | C8H6F3NO3S
reactant | potassium tert-butoxide | 1.3 mmol, 140 mg | CC(C)([O-])C.[K+]
reactant | water | O | H2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 4-tert-butoxy-2,5-difluoro-N-(methylsulfonyl)benzamide | 1.76 g, 100% | C(C)(C)(C)OC1=CC(=C(C(=O)NS(=O)(=O)C)C=C1F)F | C12H15F2NO4S
